US07504413B2
4-(4-Bromophenyl)-N,1-dimethyl-N-(methyloxy)-1H-imidazole-2-carboxamide
To a solution of ethyl 4-(4-bromophenyl)-1-methyl-1H-imidazole-2-carboxylate (1.66 g, 5.37 mmol) in MeOH (38 mL) was added 1N NaOH solution (19 mL). The reaction turned cloudy white and was stirred at room temperature for 30 minutes. The reaction mixture was concentrated in vacuo and pumped under high vacuum overnight to give the sodium salt of 4-(4-bromophenyl)-1-methyl-1H-imidazole-2-carboxylic acid as a white solid. The sodium salt of 4-(4-bromophenyl)-1-methyl-1H-imidazole-2-carboxylic acid was dissolved in anhydrous CH2Cl2 (40 mL) under nitrogen at −15° C. (ice/methanol bath) and N-methylmorpholine (1.1 equiv, 5.91 mmol) was added followed by isobutyl chloroformate (1.1 equiv, 5.91 mmol). The reaction mixture was stirred at −15° C. for 15 minutes and then N,O-dimethylhydroxylamine hydrochloride (1.0 equiv, 5.37 mmol) was added. The reaction was allowed to warm to room temperature and was stirred for 17 hours. The reaction was quenched with H2O (10 mL). The product was extracted using EtOAc (3×30 mL) and the combined organic layers were washed with brine (20 mL), dried over MgSO4, and concentrated in vacuo. Purification by silica gel chromatography (Analogix IF280, 20-100% EtOAc/hexanes) afforded the title compound as a tan solid (32%). ESMS [M+H]+: 324.2.

reactant | sodium | [Na] | Na
reactant | 4-(4-bromophenyl)-1-methyl-1H-imidazole-2-carboxylic acid | BrC1=CC=C(C=C1)C=1N=C(N(C1)C)C(=O)O | C11H9BrN2O2
reactant | N-methylmorpholine | 5.91 mmol, 1.1 equiv | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 5.91 mmol, 1.1 equiv | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 5.37 mmol, 1.0 equiv | Cl.CNOC
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Bromophenyl)-N,1-dimethyl-N-(methyloxy)-1H-imidazole-2-carboxamide | 32% | BrC1=CC=C(C=C1)C=1N=C(N(C1)C)C(=O)N(OC)C | C13H14BrN3O2
